US06121182
(1) Dimethyl(2-i-propyl-4-phenylindenyl)(2-methyl-4-phenylindenyl)silane
In a 200-ml two-necked flask were charged 7.38 g (31.5 mmol) of 2-i-propyl-4-phenylindene, 55.3 mg (0.618 mmol) of copper cyanide and 100 ml of dry diethyl ether. To the mixture was added at -78° C., 22.0 ml of 1.62 M hexane solution of n-butyllithium (35.2 mmol) and the mixture was stirred at room temperature for 2 hours. Subsequently, 8.46 g (28.3 mmol) of dimethyl(2-methyl-4-phenylindenyl)silyl chloride was added at -78° C. and the mixture was stirred at room temperature for 12 hours. After it was poured into aqueous ammonium chloride, the reaction mixture was extracted with diethyl ether. The organic layer was washed with saturated saline and dried over sodium sulfate. The sodium sulfate was removed by filtration and the organic solvent was distilled off under reduced pressure. The residue was purified by column chromatography (silica gel, eluent: n-hexane, methylene chloride) to obtain 10.93 g (22.0 mmol, yield: 77.7%) of a pale yellow liquid. The product was confirmed to be a mixture of two isomers by 1H-NMR.

reactant | 2-i-propyl-4-phenylindene | 31.5 mmol, 7.38 g | C(C)(C)C=1CC2=CC=CC(=C2C1)C1=CC=CC=C1 | C18H18
reactant | n-butyllithium | 35.2 mmol | C(CCC)[Li]
reactant | dimethyl(2-methyl-4-phenylindenyl)silyl chloride | 28.3 mmol, 8.46 g | C[Si](C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C)(C)Cl | C18H19ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper cyanide | 0.618 mmol, 55.3 mg | [Cu](C#N)C#N
solvent | hexane | 1.62 M, 22.0 ml | CCCCCC | C6H14
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Dimethyl(2-i-propyl-4-phenylindenyl)(2-methyl-4-phenylindenyl)silane | 22.0 mmol, 10.93 g, yield: 77.7% | C[Si](C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C)(C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C(C)C)C | C36H36Si
